US07566699B2
4-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-(2-[1-carboxy-1-(methyl)ethylcarbamoyl]ethyl)phenyl)ethyl]-benzofuran
The title compound was prepared in a similar manner to that described in Example 84 using 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-{2-[4-(2-carboxyethyl)phenyl]ethyl}benzofuran and benzyl 2-amino-2-methylpropionate hydrochloride instead of 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-carboxyphenyl)ethyl]benzofuran and benzyl 2-aminoacetate hydrochloride, respectively.

reactant | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-{2-[4-(2-carboxyethyl)phenyl]ethyl}benzofuran | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)CCC(=O)O | C33H36O13
reactant | benzyl 2-amino-2-methylpropionate hydrochloride | Cl.NC(C(=O)OCC1=CC=CC=C1)(C)C
reactant | benzyl 2-aminoacetate hydrochloride | Cl.NCC(=O)OCC1=CC=CC=C1
product | 4-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-(2-[1-carboxy-1-(methyl)ethylcarbamoyl]ethyl)phenyl)ethyl]-benzofuran | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)CCC(NC(C)(C)C(=O)O)=O | C37H43NO14
